US08686189B2
t-Butyl[(1R,2S,5S)-2-({[(5-chloropyridin-2-yl)amino](oxo)acetyl}amino)-5-(dimethylaminocarbonyl)cyclohexyl]carbamate
Triethylamine (169 mL) was added at 60° C. to a suspension (550 mL) of t-butyl {(1R,2S,5S)-2-amino-5-[(dimethylamino)carbonyl]cyclohexyl}carbamate oxalate (100.1 g) in acetonitrile. At the same temperature, ethyl[5-chloropyridin-2-yl]amino](oxo)acetate hydrochloride (84.2 g) was added to the mixture, followed by stirring for 6 hours. Thereafter, the mixture was stirred at room temperature for 16 hours. Water was added to the reaction mixture, followed by stirring at 10° C. for 1.5 hours. The formed crystals were recovered by filtration, to thereby yield 106.6 g of the title compound.

reactant | Triethylamine | 169 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyl {(1R,2S,5S)-2-amino-5-[(dimethylamino)carbonyl]cyclohexyl}carbamate oxalate | 550 mL, 100.1 g | C(C(=O)O)(=O)O.N[C@@H]1[C@@H](C[C@H](CC1)C(=O)N(C)C)NC(OC(C)(C)C)=O
reactant | (oxo)acetate hydrochloride | 84.2 g | Cl.O=CC(=O)O
reactant | Water | O | H2O
reactant | acetonitrile | C(C)#N | C2H3N
product | t-Butyl[(1R,2S,5S)-2-({[(5-chloropyridin-2-yl)amino](oxo)acetyl}amino)-5-(dimethylaminocarbonyl)cyclohexyl]carbamate | C(C)(C)(C)OC(N[C@H]1[C@H](CC[C@@H](C1)C(=O)N(C)C)NC(C(=O)NC1=NC=C(C=C1)Cl)=O)=O | C21H30ClN5O5
